US05616684
Boc-Orn-OH (0.51 g) [obtained by catalytically reducing Boc-Orn(Z)-OH in methanol in a stream of hydrogen using 10% Pd-carbon as a catalyst] was dissolved in DMF, and the solution was cooled with ice. TEA (0.61 ml) and PhCOONB [prepared from PhCOOH (0.30 g), HONB (0.47 g) and DCC (0.54 g)] were added thereto, followed by stirring overnight. The reaction solution was concentrated, and the residue was dissolved in AcOEt. The resulting solution was washed with 10% aqueous citric acid. After washing with water, the solution was dried with Na2SO4 and concentrated. Then, ether and dicyclohexylamine (438 μl) were added to the residue to separate out a precipitate, which was collected by filtration.

reactant | Boc-Orn(Z)-OH | N([C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C18H26N2O6
solvent | methanol | CO | CH4O
catalyst | hydrogen | [H][H] | H2
product | Boc-Orn-OH | 0.51 g | N([C@@H](CCCN)C(=O)O)C(=O)OC(C)(C)C | C10H20N2O4
